US08937092B2
To a stirred solution of (4-bromophenyl)methanamine (500 mg, 2.687 mmol) in pyridine were added methanesulfonyl chloride (0.4 mL, 5.106 mmol) at 0° C. The reaction mixture was stirred for 1 h, then diluted with dichloromethane. The mixture was washed with water. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. N-(4-bromobenzyl)methane-sulfonamide (675 mg) was obtained in 95% yield.

reactant | (4-bromophenyl)methanamine | 2.687 mmol, 500 mg | BrC1=CC=C(C=C1)CN | C7H8BrN
reactant | methanesulfonyl chloride | 5.106 mmol, 0.4 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-bromobenzyl)methane-sulfonamide | 675 mg, 95% yield | BrC1=CC=C(CNS(=O)(=O)C)C=C1 | C8H10BrNO2S
